US04401473
1.1 Preparation of dimethylphosphinylmethanephosphonic acid diethyl ester
252 g of chloromethyl-dimethylphosphine oxide are heated to 140° to 150° C. under an atmosphere of nitrogen and 480 g of triethylphosphite are added dropwise in the course of 4 hours. Stirring is continued for a further 1.5 hours at the temperature indicated, 98 g of ethyl chloride (76% of theoretical) being collected in a cold trap connected downstream of the apparatus. The mixture is then incipiently distilled at 0.6 mm Hg until the internal temperature reaches 148° C., with distillate passing over at a temperature of 135° C. This gives 309 g of the ester, having a solidification point of 59°-60° C. (yield: 68 percent of theoretical). The product can be employed for further reactions in the form of the crude product; further purification can be effected by distillation (boiling point at 0.4 mm Hg: 140° C.).

reactant | chloromethyl-dimethylphosphine oxide | 252 g | ClCP(C)(C)=O | C3H8ClOP
reactant | triethylphosphite | 480 g | C(C)OP(OCC)OCC | C6H15O3P
product | dimethylphosphinylmethanephosphonic acid diethyl ester | yield: 68 percent | C(C)OP(OCC)(=O)CP(=O)(C)C | C7H18O4P2
